datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])=[C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[H:10])([H:8])[H:9].[C:20]([C:21]([C:22]([H:27])([H:28])[H:29])[H:26])([H:23])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])([C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[C:21]([C:20]([H:23])([H:24])[H:25])([C:22]([H:27])([H:28])[H:29])[H:26])[H:10])([H:8])[H:9],23.9325
[C:0]1([H:16])=[C:1]([H:17])[c:2]2[c:3]([H:18])[c:4]3[c:5]([H:19])[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]3[c:10]3[c:11]([H:23])[c:12]([H:24])[c:13]([H:25])[c:14]1[c:15]23.[O:26][H:27]>>[C:0]1([H:16])=[C:1]([H:17])[c:2]2[c:3]([H:18])[c:4]3[c:5]([H:19])[c:6][c:7]([H:21])[c:8]([H:22])[c:9]3[c:10]3[c:11]([H:23])[c:12]([H:24])[c:13]([H:25])[c:14]1[c:15]23.[H:20][O:26][H:27],18.300816
[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([C:5]([H:14])([H:15])[H:16])[C:6]([C:7](=[C:8]([C:9]([H:21])[H:22])[H:20])[H:19])([H:17])[H:18])[H:10]>>[C:0](#[C:1][C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([C:5]([H:14])([H:15])[H:16])[C:6]([H:17])([H:18])[C:7]([H:19])=[C:8]([H:20])[C:9]1([H:21])[H:22])[H:10],109.663
[C:0](=[C:1]=[C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[C:5](=[C:6]([H:13])[H:14])[H:12])([H:7])[H:8].[C:15]([c:16]1[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]1[H:28])([H:22])[H:23]>>[C:0](=[C:1][C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([C:5](=[C:6]([H:13])[H:14])[H:12])[C:15]([c:16]1[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]1[H:28])([H:22])[H:23])([H:7])[H:8],53.1786
[C:0]([S:1]([C:2]([H:7])([H:8])[H:9])=[O:3])([H:4])([H:5])[H:6].[C:10]([H:11])([H:12])[H:13]>>[C:0]([S:1]([C:2]([H:7])([H:8])[H:9])=[O:3])([H:5])[H:6].[H:4][C:10]([H:11])([H:12])[H:13],23.6
[O:0]=[C:1]([O:2][H:4])[H:3].[O:5][O:6]>>[H:4][O:5][O:6].[O:0]=[C:1]([O:2])[H:3],263.592
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[H:9].[C:19]([c:20]1[c:21]([H:28])[c:22]([H:29])[c:23]([H:30])[c:24]([H:31])[c:25]1[H:32])([H:26])[H:27]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])([C:7](=[C:8]([H:17])[H:18])[H:16])[C:19]([c:20]1[c:21]([H:28])[c:22]([H:29])[c:23]([H:30])[c:24]([H:31])[c:25]1[H:32])([H:26])[H:27])[H:9],36.8192
[C:0]([S:1][S:2][S:3][C:4]([H:8])([H:9])[H:10])([H:5])([H:6])[H:7].[C:11]([H:12])([H:13])[H:14]>>[C:0]([S:1])([H:5])([H:6])[H:7].[S:2]([S:3][C:4]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],21.3384
[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]1[H:18])([H:12])[H:13])[H:11])[H:10]>>[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5][c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]1[H:18])([H:12])[H:13])([H:11])[H:14])[H:10],140.201656
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]([C:13](=[S:14])[H:18])([H:15])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:18])[H:5].[C:12]([C:13]=[S:14])([H:15])([H:16])[H:17],111.462
[C:0]1=[C:1]([H:5])[C:2]([H:6])=[C:3]([H:7])[C:4]1([H:8])[H:9]>>[C:0]1([H:8])=[C:1]([H:5])[C:2]([H:6])=[C:3]([H:7])[C:4]1[H:9],112.5496
[C:4]([H:5])([H:6])[H:7].[S:0]([S:1][H:3])[H:2]>>[S:0]([H:2])[C:4]([H:5])([H:6])[H:7].[S:1][H:3],12.1336
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([c:6]1[c:7]([H:24])[c:8]([H:25])[c:9]([H:26])[c:10]([H:27])[c:11]1[H:28])([H:22])[H:23])[H:21])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:21])[C:5]([H:22])([H:23])[C:6]12[C:7]([H:24])[C:8]([H:25])=[C:9]([H:26])[C:10]([H:27])=[C:11]2[H:28])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14],55.0202
[C:0]([C:1]([C:2]([O:3])([H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6]>>[C:0]([C:1]([C:2]([O:3][H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6],88.9937
[C:0](=[C:1]=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10].[C:17]([C:18]([H:21])([H:22])[H:23])([H:19])[H:20]>>[C:0](=[C:1][C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])([H:11])[C:17]([C:18]([H:21])([H:22])[H:23])([H:19])[H:20])([H:9])[H:10],35.7314
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12]([C:13]([C:14]([H:19])([H:20])[H:21])[C:15]([H:22])([H:23])[H:24])([H:16])([H:17])[H:18]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])([H:5])[C:13]([C:12]([H:16])([H:17])[H:18])([C:14]([H:19])([H:20])[H:21])[C:15]([H:22])([H:23])[H:24],7.322
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([H:16])[H:17])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:12]([C:13]([H:16])[H:17])([H:14])[H:15])[H:5],34.3088
